US04827004
A solution of 500 mg (0.0014 mol) of methyl [[(6E,10E)-11-carbamoyl-2,6,10-trimethyl-3-oxo-6,10-undecadienyl]thio]acetate in 30 ml of methylene chloride is treated at 0° with 270 mg of m-chloroperbenzoic acid. The solution is stirred at 0° for 1 hour under argon. The reaction solution is washed with aqueous potassium carbonate solution. After drying and removing the solvent the residue is chromatographed on silica gel with ether-methanol 3:1. There is obtained methyl [[(6E,10E)-11-carbamoyl-2,6,10-trimethyl-3-oxo-6,10-undecadienyl]sulfinyl]acetate which exhibits the following absorption bands in the IR spectrum: 3329 cm-1, 3197 cm-1, 1734 cm-1, 1671 cm-1, 1639 cm-1, 1610 cm-1, 1439 cm-1, 1307 cm-1, 1218 cm-1, 1193 cm-1, 1148 cm-1, 1016 cm- 1.

reactant | methyl [[(6E,10E)-11-carbamoyl-2,6,10-trimethyl-3-oxo-6,10-undecadienyl]thio]acetate | 0.0014 mol, 500 mg | C(N)(=O)/C=C(/CC/C=C(/CCC(C(CSCC(=O)OC)C)=O)\C)\C | C18H29NO4S
reactant | m-chloroperbenzoic acid | 270 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | methyl [[(6E,10E)-11-carbamoyl-2,6,10-trimethyl-3-oxo-6,10-undecadienyl]sulfinyl]acetate | C(N)(=O)/C=C(/CC/C=C(/CCC(C(CS(=O)CC(=O)OC)C)=O)\C)\C | C18H29NO5S
